US07691877B2
(2-Amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester
Benzyl-(2,6-dichloro-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (500 mg) was dissolved in THF (3 ml) in a ReactiVial. Ammonia (7M in MeOH, 1 ml) was added, the vial was sealed, and the reaction left to stir at RT for 48 h. The reaction mixture was then pre-absorbed directly onto silica and columned on Isco Companion on a silica column (40 g, Redisep), eluting with EtOAc:heptane, increasing the gradient linearly from 10:90 to 40:60 over 10 column volumes. The desired fractions were combined and evaporated to provide the title compound as a yellow gum which solidified on scratching (305 mg)

reactant | Benzyl-(2,6-dichloro-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 500 mg | C(C)OC(N(C1=C(C(=NC(=C1)Cl)Cl)[N+](=O)[O-])CC1=CC=CC=C1)=O | C15H13Cl2N3O4
reactant | Ammonia | 7M, 1 ml | N | H3N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (2-Amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Cl)N)[N+](=O)[O-])=O | C15H15ClN4O4
